### PR TITLE
[Merged by Bors] - feat: port MeasureTheory.Covering.VitaliFamily

### PR DESCRIPTION
**Pull request by int-y1**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Covering/VitaliFamily.lean [hunk 1]
```diff
@@ -0,0 +1,300 @@
...
+
+theorem eventually_filterAt_subset_of_nhds {x : α} {o : Set α} (hx : o ∈ 𝓝 x) :
+    ∀ᶠ a in v.filterAt x, a ⊆ o := by
+  rw [eventually_filterAt_iff]
+  rcases Metric.mem_nhds_iff.1 hx with ⟨ε, εpos, hε⟩
+  exact ⟨ε / 2, half_pos εpos,
+    fun a _ ha => ha.trans ((closedBall_subset_ball (half_lt_self εpos)).trans hε)⟩
+#align vitali_family.eventually_filter_at_subset_of_nhds VitaliFamily.eventually_filterAt_subset_of_nhds
+
+theorem fineSubfamilyOnOfFrequently (v : VitaliFamily μ) (f : α → Set (Set α)) (s : Set α)
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Covering/VitaliFamily.lean:292]:
```suggestion
theorem fineSubfamilyOn_of_frequently (v : VitaliFamily μ) (f : α → Set (Set α)) (s : Set α)
```

File: Mathlib/MeasureTheory/Covering/VitaliFamily.lean [hunk 2]
```diff
@@ -0,0 +1,300 @@
...
+    (h : ∀ x ∈ s, ∃ᶠ a in v.filterAt x, a ∈ f x) : v.FineSubfamilyOn f s := by
+  intro x hx ε εpos
+  obtain ⟨a, av, ha, af⟩ : ∃ (a : Set α) , a ∈ v.setsAt x ∧ a ⊆ closedBall x ε ∧ a ∈ f x :=
+    v.frequently_filterAt_iff.1 (h x hx) ε εpos
+  exact ⟨a, ⟨av, af⟩, ha⟩
+#align vitali_family.fine_subfamily_on_of_frequently VitaliFamily.fineSubfamilyOnOfFrequently
```
Comment (RemyDegenne) [inline Mathlib/MeasureTheory/Covering/VitaliFamily.lean:298]:
```suggestion
#align vitali_family.fine_subfamily_on_of_frequently VitaliFamily.fineSubfamilyOn_of_frequently
```

**Review by RemyDegenne — APPROVED** [review]
Thanks!
bors d+
